US05849759
To 2-isopropyl-4-methoxycarbonyl-6-aminobenzimidazole in methanol/acetic acid (300 mL, 2:1, v/v) was added N-tert-butoxycarbonyl-4-piperidone (80 g), followed by NaCNBH4 (9 g) at ambient temperature. After stirring at ambient temperature for 1 hour the solvents were removed and the resulting residue was worked up between ethyl acetate and H2O. The organic layer was dried, concentrated, and purified by silica gel chromatography (hexane/ethyl acetate/CH2Cl2 /methanol, gradient) to afford 2-isopropyl-4-methoxycarbonyl-6-(N-(tert-butoxycarbonyl)piperidin-4-ylamino)benzimidazole as a foam.

reactant | 2-isopropyl-4-methoxycarbonyl-6-aminobenzimidazole | C(C)(C)C=1NC2=C(N1)C=C(C=C2C(=O)OC)N | C12H15N3O2
reactant | N-tert-butoxycarbonyl-4-piperidone | 80 g | C(C)(C)(C)OC(=O)N1CCC(CC1)=O | C10H17NO3
reactant | methanol acetic acid | CO.C(C)(=O)O
product | 2-isopropyl-4-methoxycarbonyl-6-(N-(tert-butoxycarbonyl)piperidin-4-ylamino)benzimidazole | C(C)(C)C=1NC2=C(N1)C=C(C=C2C(=O)OC)N(C(=O)OC(C)(C)C)C2CCNCC2 | C22H32N4O4
